US09255110B2
Sodium hydroxide (0.17 g, 4.17 mmol) was added to a suspension of N-(7-cyano-3-methoxy-naphthalen-2-yl)-acetamide (0.2 g, 0.83 mmol) in ethylene glycol (2 mL) and the resulting mixture was heated at reflux (195° C.) overnight. The reaction mixture was then cooled, water was added and the pH was adjusted to 4. The precipitate was collected by filtration and dried to give 0.156 g of 7-amino-6-methoxy-naphthalene-2-carboxylic acid as a brown solid. MS=218 [M+H]+.

reactant | Sodium hydroxide | 4.17 mmol, 0.17 g | [OH-].[Na+]
reactant | N-(7-cyano-3-methoxy-naphthalen-2-yl)-acetamide | 0.83 mmol, 0.2 g | C(#N)C1=CC=C2C=C(C(=CC2=C1)NC(C)=O)OC | C14H12N2O2
reactant | water | O | H2O
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 7-amino-6-methoxy-naphthalene-2-carboxylic acid | 0.156 g | NC1=C(C=C2C=CC(=CC2=C1)C(=O)O)OC | C12H11NO3
